US09061067B2
16-(2H-Tetrazol-5-yl)hexadecanoic acid (433 mg, 1.34 mmol) was heated in toluene (5 mL) and 2,2-dimethoxypropane (2 mL, 16 mmol) to reflux for to minutes. The solvent was removed in vacuo. Ethyl acetate (10 mL) was added, followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (359 mg, 1.87 mmol) and 1 hydroxybenzotriazol (281 mg, 2 mmol). The reaction was stirred at room temperature for 30 min, and a mixture of L-glutamic acid alpha tert-butyl-gamma benzyl diester hydrochloride (661 mg, 2 mmol), diisopropylamin (0.34 mL, 2 mmol), and ethyl acetate (4 mL) was added. The mixture was stirred at room temperature overnight. The reaction was distributed between ethyl acetate (50 mL) and water (50 mL). The organic phase was dried (Na2SO4) and the solvent removed in vacuo. The crude 2-(16-2H-tetrazol-5-yl-hexadecanoylamino)pentanedioic acid 5-benzyl ester 1-tert-butyl ester was purified on C-18 RP-HPLC 5 cm×20 cm, flow 20 ml/min using a acetonitrile/water 60-90% gradient containing 0.1% TFA. Fractions containing 2-(16-2H-tetrazol-5-yl-hexadecanoylamino)pentanedioic acid 5-benzyl ester 1-tert-butyl ester were collected and the solvent removed in vacuo. The residue was redissolved in ethyl acetate (10 mL), palladium on activated charcoal (200 mg) was added, and the mixture was stirred under a hydrogen atmosphere (1 atm) for 3 hours. The mixture was filtered and the solvent removed in vacou to yield 2-(16-2H-tetrazol-5-yl-hexadecanoylamino)pentanedioic acid 1-tert-butyl ester (100 mg).

reactant | 16-(2H-Tetrazol-5-yl)hexadecanoic acid | 1.34 mmol, 433 mg | N=1NN=NC1CCCCCCCCCCCCCCCC(=O)O | C17H32N4O2
reactant | 2,2-dimethoxypropane | 16 mmol, 2 mL | COC(C)(C)OC | C5H12O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.87 mmol, 359 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazol | 2 mmol, 281 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | diisopropylamin | 2 mmol, 0.34 mL | C(C)(C)NC(C)C | C6H15N
reactant | water | 50 mL | O | H2O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | 2-(16-2H-tetrazol-5-yl-hexadecanoylamino)pentanedioic acid 1-tert-butyl ester | 100 mg | C(C)(C)(C)OC(C(CCC(=O)O)NC(CCCCCCCCCCCCCCCC=1N=NNN1)=O)=O | C26H47N5O5
